US06403586B1
Preparation of 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-[4-(3-pyridylcarbonylamino)benzyl]-2H-pyridazin-3-one
To a suspension of nicotinic acid (38 mg, 0.31 mmol) in tetrahydrofuran (2 ml), N-[3-(dimethylamino)-propyl]-N′-ethylcarbodiimide.hydrochloride (WSC.HCl) (60 mg,0.31 mmol) was added at room temperature, followed by stirring for 5 minutes. A solution of 2-(4-aminobenzyl)-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one (76 mg, 0.21 mmol) in tetrahydrofuran (2 ml) was then added, followed by stirring at the same temperature for 13 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in chloroform (30 ml). The solution was washed successively with water (30 ml) and a saturated aqueous solution of sodium chloride (brine) (30 ml), and was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was separated and purified by silica gel preparative chromatography [developer: chloroform/methanol (10/1)], followed by crystallization from chloroform-hexane. The title compound (78 mg, 79.7%) was obtained as yellow prisms.

reactant | nicotinic acid | 0.31 mmol, 38 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | N-[3-(dimethylamino)-propyl]-N′-ethylcarbodiimide.hydrochloride | 0.31 mmol, 60 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-(4-aminobenzyl)-4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | 0.21 mmol, 76 mg | NC1=CC=C(CN2N=C(C=C(C2=O)C(=O)OC)C2=CC=C(C=C2)OC)C=C1 | C20H19N3O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-[4-(3-pyridylcarbonylamino)benzyl]-2H-pyridazin-3-one | 78 mg, 79.7% | COC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)NC(=O)C=1C=NC=CC1)=O | C26H22N4O5
